US08183264B2
(3-(5-Methyl-thiophen-2-ylmethyl)-phenyl)-methanol
To a solution of ethanol (5.0 mL) and 3-(5-methyl-thiophen-2-ylmethyl)-benzaldehyde (350 mg) described in Manufacturing Example 52-2 was added sodium borohydride (120 mg), which was stirred for 10 minutes at room temperature. Water was added to the reaction solution, which was then extracted with ethyl acetate. The solvent was evaporated from the organic layer under a reduced pressure, and the residue was purified by silica gel chromatography (heptane:ethyl acetate=2:1) to obtain the titled compound (300 mg).

reactant | ethanol | 5.0 mL | C(C)O | C2H6O
reactant | 3-(5-methyl-thiophen-2-ylmethyl)-benzaldehyde | 350 mg | CC1=CC=C(S1)CC=1C=C(C=O)C=CC1 | C13H12OS
reactant | sodium borohydride | 120 mg | [BH4-].[Na+]
solvent | Water | O | H2O
product | (3-(5-Methyl-thiophen-2-ylmethyl)-phenyl)-methanol | 300 mg | CC1=CC=C(S1)CC=1C=C(C=CC1)CO | C13H14OS
